US04904653
2-Chloro-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride
Sulphuryl chloride (0.16 ml) was added to a stirred solution of 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride (0.49 g free base converted to hydrochloride salt with ethanolic hydrogen chloride) at room temperature. After 2 hours the mixture was evaporated and the solid residue recrystallised twice from ethanol (5 ml) to give the title product as white crystals (m.p. 198°).

reactant | Sulphuryl chloride | 0.16 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | 0.49 g | Cl.CN1CC(C2=C(CC1)C=CS2)C2=CC=CC=C2
product | 2-Chloro-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | Cl.ClC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | InChI=1S/C15H16ClNS.ClH/c1-17-8-7-12-9-14(16)18-15(12)13(10-17)11-5-3-2-4-6-11;/h2-6,9,13H,7-8,10H2,1H3;1H
